US05006520
In 75 ml of dimethylformamide were suspended 5.0 g of 3-(4-fluorophenyl)-1-(3-hydroxyphenyl)-1H-pyrazolo[3,4-b]pyridine, 3.5 g of N,N-diethylbromoacetamide and 2.5 g of potassium carbonate. The mixture was stirred at 60° C. for 5 hours. After the solvent was distilled off under reduced pressure, the residue was extracted with ethyl acetate-water. The organic layer was concentrated. Isopropyl ether was added to the residue for crystallization. The obtained crude crystals were recrystallized from ethyl acetate to give 2.8 g of N,N-diethyl-3-[3-(4-fluorophenyl)-1H-pyrazolo[3,4-b]pyridin-1yl]phenoxyacetamide, m.p. 102°-105° C.

reactant | 3-(4-fluorophenyl)-1-(3-hydroxyphenyl)-1H-pyrazolo[3,4-b]pyridine | 5.0 g | FC1=CC=C(C=C1)C1=NN(C2=NC=CC=C21)C2=CC(=CC=C2)O | C18H12FN3O
reactant | N,N-diethylbromoacetamide | 3.5 g | C(C)N(C(CBr)=O)CC | C6H12BrNO
reactant | potassium carbonate | 2.5 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 75 ml | CN(C=O)C | C3H7NO
product | N,N-diethyl-3-[3-(4-fluorophenyl)-1H-pyrazolo[3,4-b]pyridin-1yl]phenoxyacetamide | 2.8 g | C(C)N(C(COC1=CC(=CC=C1)N1N=C(C=2C1=NC=CC2)C2=CC=C(C=C2)F)=O)CC | C24H23FN4O2
